US07160887B1
5% carbon-palladium (1.0 g) was added to an ethyl acetate (100 ml) solution of tert-butyl[1-[3-(5-chloro-2-nitrophenoxy)phenyl]-1-methylethyl]carbamate (3.3 g, 8.1 mmols). The resulting mixture was hydrogenated at room temperature under atmospheric pressure for 3 hours. The catalyst was removed through filtration, and the filtrate was concentrated under reduced pressure. The residue was purified through silica gel column chromatography to give an amorphous solid of tert-butyl[1-[3-(2-amino-5-chlorophenoxy)phenyl]-1-methylethyl]carbamate (2.7 g, 89%).

reactant | tert-butyl[1-[3-(5-chloro-2-nitrophenoxy)phenyl]-1-methylethyl]carbamate | 8.1 mmols, 3.3 g | C(C)(C)(C)OC(NC(C)(C)C1=CC(=CC=C1)OC1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C20H23ClN2O5
catalyst | carbon palladium | 1.0 g | [C].[Pd]
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl[1-[3-(2-amino-5-chlorophenoxy)phenyl]-1-methylethyl]carbamate | 2.7 g, 89% | C(C)(C)(C)OC(NC(C)(C)C1=CC(=CC=C1)OC1=C(C=CC(=C1)Cl)N)=O | C20H25ClN2O3
